US05294734
0.52 g (1.36 mmol) of 4-diisopropylphosphonomethyl-6-fluoro-2-formylamino-hex-3-enoic acid ethyl ester is dissolved in 3.5 ml of dichloromethane, and 0.7 ml (5.45 mmol) of trimethylbromosilane is added dropwise at room temperature. The mixture is left to stand at room temperature for 24 hours, 3.5 ml of ethanol are added dropwise, the mixture is left to stand for a further 24 hours and is concentrated by evaporation in a rotary evaporator, the residue is dissolved in 2.4 ml of ethanol, and a mixture of 0.6 ml of propylene oxide and 0.6 ml of ethanol is added. A suspension forms, which is stirred for a further 2 hours at room temperature and for 2 hours with ice cooling and is then filtered with suction. 2-amino-6-fluoro-4-phosphonomethyl-hex-3-enoic acid ethyl ester having a melting point of 222° (decomp.) is obtained.

reactant | 4-diisopropylphosphonomethyl-6-fluoro-2-formylamino-hex-3-enoic acid ethyl ester | 1.36 mmol, 0.52 g | C(C)OC(C(C=C(CCF)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C16H29FNO6P
reactant | trimethylbromosilane | 5.45 mmol, 0.7 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | ethanol | 3.5 ml | C(C)O | C2H6O
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | 2-amino-6-fluoro-4-phosphonomethyl-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCF)CP(=O)(O)O)N)=O | C9H17FNO5P
